US04672066
A mixture of 1.5 g of 1-[4-(2-bromoethoxy)-3-hydroxy-2-propylphenyl]ethanone, 0.83 g of ethyl 3-hydroxybenzoate and 0.95 g of potassium carbonate was allowed to react according to the procedure of Example 79 to give 1.2 g, m.p. 58-60° (62% yield) of 3-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]benzoic acid ethyl ester, the title compound.

reactant | 1-[4-(2-bromoethoxy)-3-hydroxy-2-propylphenyl]ethanone | 1.5 g | BrCCOC1=C(C(=C(C=C1)C(C)=O)CCC)O | C13H17BrO3
reactant | ethyl 3-hydroxybenzoate | 0.83 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | potassium carbonate | 0.95 g | C([O-])([O-])=O.[K+].[K+]
product | 3-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]benzoic acid ethyl ester | 1.2 g, 62% yield | C(C)OC(C1=CC(=CC=C1)OCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C22H26O6
